15
R0001 0 1 1E+8
R0002 0 2 1E+8
C0304 3 4 1E-6
C0504 5 4 1E-6
C0607 6 7 1E-6
C0800 8 0 1E-6
C0903 9 3 1E-6
C1005 10 5 1E-6
C1107 11 7 1E-6
C1208 12 8 1E-6
C1309 13 9 1E-6
C1410 14 10 1E-6
C1511 15 11 1E-6
C0112 1 12 1E-6
D0003 0 3 1e-9 43.429445e-3
D0005 0 5 1e-9 43.429445e-3
D0007 0 7 1e-9 43.429445e-3
D0308 3 8 1e-9 43.429445e-3
D0511 5 11 1e-9 43.429445e-3
D0809 8 9 1e-9 43.429445e-3
D0710 7 10 1e-9 43.429445e-3
D0912 9 12 1e-9 43.429445e-3
D1015 10 15 1e-9 43.429445e-3
D1213 12 13 1e-9 43.429445e-3
D1114 11 14 1e-9 43.429445e-3
D1301 13 1 1e-9 43.429445e-3
D1402 14 2 1e-9 43.429445e-3
D1502 15 2 1e-9 43.429445e-3
V0400 4 0 SIN 0 100 10 0 0 0 200
V0600 6 0 SIN 0 100 10 0 0 180 200
.TRAN 5 1E-3 TETA 0.5 1
